US09108939B2
B: 2-(4-((4-(3-Aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
A mixture of 1,1,1,3,3,3-hexafluoro-2-(4-((4-(3-nitrophenoxy)piperidin-1-yl)methyl)-phenyl)propan-2-ol (8.36 mmol, 4 g) and palladium on carbon (10%) (0.251 mmol, 0.267 g) in ethyl acetate was hydrogenated at 3 bar until the desired amount of hydrogen was consumed. The reaction was filtered through celite and concentrated under reduced pressure. Chromatography on silica, eluting with ethyl acetate, gave the title compound (3.7 g). MS (ESI) m/z 449.2 [M+H]+

reactant | 1,1,1,3,3,3-hexafluoro-2-(4-((4-(3-nitrophenoxy)piperidin-1-yl)methyl)-phenyl)propan-2-ol | 8.36 mmol, 4 g | FC(C(C(F)(F)F)(O)C1=CC=C(C=C1)CN1CCC(CC1)OC1=CC(=CC=C1)[N+](=O)[O-])(F)F | C21H20F6N2O4
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.251 mmol, 0.267 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-((4-(3-Aminophenoxy)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 3.7 g | NC=1C=C(OC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=CC1 | C21H22F6N2O2
